US07507736B2
d) 5-Methoxy-6-methyl-1H-indole-2-carboxylic acid ethyl ester
A solution of 0.20 g (0.60 mmol) 5-methoxy-6-methyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 4 mL dichloromethane was cooled to 0° C. and 2 mL (3.0 g, 26.1 mmol) trifluoroacetic acid were added. The ice bath was removed and after stirring 1 h at room temperature the solution was evaporated to dryness. The residue was dissolved in dichloromethane, washed with aqueous 1M sodium hydroxide solution and brine, dried over magnesium sulfate, filtered and evaporated to afford the title compound as a white solid (97%) which was pure enough to be used in the next step.

reactant | 5-methoxy-6-methyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.60 mmol, 0.20 g | CCOC(=O)C=1N(C2=CC(=C(C=C2C1)OC)C)C(=O)OC(C)(C)C | C18H23NO5
reactant | trifluoroacetic acid | 26.1 mmol, 2 mL, 3.0 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5-Methoxy-6-methyl-1H-indole-2-carboxylic acid ethyl ester | 97% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC)C | C13H15NO3
